USRE028935
1-(β-Hydroxy-ethyl)-5-phenyl-7-chloro-1H-1,5-benzodiazepine-2,4-(3H,5H)-dione by method A
A mixture consisting of 28.6 gm (0.1 mol) of 5-phenyl-7-chloro-1H-1,5-benzodiazepine-2,4-(3H,5H)-dione, 500 ml of methanol, 25 ml of water, 10-15 ml of ethyleneoxide and 1 ml of Triton B (methanolic 35% solution of benzyl trimethylammonium hydroxide) was stirred at room temperature for about eight hours. Thereafter, the clear solution formed thereby was evaporated, the residue was taken up in methylene chloride, and the resulting solution was extracted with water, dried and evaporated. The residue was recrystallized from ethanol, yielding 25.6 gm (78% of theory) of the colorless crystalline compound of the formula ##SPC6##

reactant | 5-phenyl-7-chloro-1H-1,5-benzodiazepine-2,4-(3H,5H)-dione | 0.1 mol, 28.6 gm | C1(=CC=CC=C1)N1C(CC(NC2=C1C=C(C=C2)Cl)=O)=O | C15H11ClN2O2
reactant | methanol | 500 ml | CO | CH4O
reactant | ethyleneoxide | 10-15 ml | C1CO1 | C2H4O
reactant | benzyl trimethylammonium hydroxide | [OH-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | 25 ml | O | H2O
product | 1-(β-Hydroxy-ethyl)-5-phenyl-7-chloro-1H-1,5-benzodiazepine-2,4-(3H,5H)-dione | OCCN1C(CC(N(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=O)=O | C17H15ClN2O3
